US07807840B2
(R)—Norvaline methyl ester (30.35 g) was added to an aqueous solution (180 mL) of sodium hydrogen carbonate (15.21 g) under ice-cooling and stirring and then stirred for 5 minutes under ice-cooling. Propionic anhydride (25.5 mL) and sodium hydrogen carbonate (8.36 g) were slowly and alternately added to the resulting solution and stirred for 1 hour under ice-cooling. The resulting two-layer solution was extracted with ethyl acetate (90 mL). The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution (50 mL), dried over anhydrous sodium sulfate and then concentrated under reduced pressure to give (R)—N-propionylnorvaline methyl ester (33.79 g, 99% yield) as a pale yellow oil.

reactant | (R)—Norvaline methyl ester | 30.35 g | COC([C@H](N)CCC)=O | C6H13NO2
reactant | Propionic anhydride | 25.5 mL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | sodium hydrogen carbonate | 180 mL, 15.21 g | C(O)([O-])=O.[Na+]
solvent | sodium hydrogen carbonate | 8.36 g | C(O)([O-])=O.[Na+]
product | (R)—N-propionylnorvaline methyl ester | 33.79 g, 99% yield | COC([C@H](NC(CC)=O)CCC)=O | C9H17NO3
